US07345178B2
Preparation of Meta-Pyridyl 6-(1H-benzo[d]imidazol-2-yl)pyridin-2-amine
A suspension of 6-aminopyridine-2-carboxylic acid (1.12 g, 8.2 mmol) with 1,2-diaminobenzene (1.77 mg,16.4 mmol) was heated in 8 mL of PPA at 180 degree for 2 h. The reaction mixture was poured into 250 mL of ice-water and neutralized with 2 N NaOH (chilled) while vigorously stirred. The resulting precipitate was filtered to collect an off-white solid, which was washed with 20 mL warm water, dried and purified by chromatography using a 9:1 mixture of CH2Cl2 to MeOH (MS, M++H=211).

reactant | 6-aminopyridine-2-carboxylic acid | 8.2 mmol, 1.12 g | NC1=CC=CC(=N1)C(=O)O | C6H6N2O2
reactant | 1,2-diaminobenzene | 16.4 mmol, 1.77 mg | NC1=C(C=CC=C1)N | C6H8N2
reactant | NaOH | 2 N | [OH-].[Na+]
product | Meta-Pyridyl 6-(1H-benzo[d]imidazol-2-yl)pyridin-2-amine | N1=C(C=CC=C1)C=1C(=NC(=CC1)C1=NC2=C(N1)C=CC=C2)N | C17H13N5
